US07696200B2
Iron powder (22.8 g, 408 mmol) was added to a solution of (5-bromo-3-nitro-pyridin-2-yloxy)-acetic acid ethyl ester (2.28 g, 7.47 mmol) in acetic acid (230 mL), and the reaction mixture was heated at 60° C. over 150 min, cooled to room temperature, and filtered. The filtrate was evaporated, taken up in dichloromethane/methanol 1:1 and neutralized with 1 M aq. sodium carbonate solution. The organic layer was washed with water and the aqueous layer re-extracted with dichloromethane. The combined organic layers were washed again with 1 M aq. sodium carbonate solution, dried (Na2SO4), and evaporated to produce 7-bromo-1H-4-oxa-1,5-diaza-naphthalen-2-one (1.46 g, 85%). Off-white solid, MS (ISP)=226.9 (M−H)−.

reactant | (5-bromo-3-nitro-pyridin-2-yloxy)-acetic acid ethyl ester | 7.47 mmol, 2.28 g | C(C)OC(COC1=NC=C(C=C1[N+](=O)[O-])Br)=O | C9H9BrN2O5
solvent | acetic acid | 230 mL | C(C)(=O)O | C2H4O2
catalyst | Iron | 408 mmol, 22.8 g | [Fe] | Fe
product | 7-bromo-1H-4-oxa-1,5-diaza-naphthalen-2-one | 1.46 g, 85% | BrC1=CN=C2OCC(NC2=C1)=O | C7H5BrN2O2
